US07741327B2
A solution of (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-hexanoic acid ethyl ester (0.95 g, 2.60 mmol) in tetrahydrofuran (15 mL) was treated with an aqueous 0.5N lithium hydroxide solution (10.4 mL) and stirred at 5° C. for 2 h. The mixture was concentrated in vacuo and the residue was dissolved in water (40 mL) and extracted with diethyl ether. The ether layer was discarded, and the aqueous layer was acidified with 1N aqueous hydrochloric acid (8 mL) and extracted with ethyl acetate. The combined ethyl acetate layers were concentrated in vacuo which afforded (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-hexanoic acid (839 mg, 96%) as a pale orange solid.

reactant | (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-hexanoic acid ethyl ester | 2.60 mmol, 0.95 g | C(C)OC([C@H](CC(CC)C)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O | C19H24ClNO4
reactant | lithium hydroxide | 0.5N, 10.4 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-hexanoic acid | 839 mg, 96% | ClC1=C(OC2=CC(N(C2)[C@H](C(=O)O)CC(CC)C)=O)C=CC=C1 | C17H20ClNO4
